US08232288B2
Stage (vi): N-((7-(Chloromethyl)-1H-benzo[d]imidazol-2-yl)methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide
Thionyl chloride (3.22 mmol, 2.5 eq.) was added to a cooled (0° C.) solution of N-((7-(hydroxymethyl)-1H-benzo[d]imidazol-2-yl)methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide (1.29 mmol, 1.0 eq.) in abs. THF (10 ml). The reaction mixture was stirred at room temperature for 24 h. The mixture was then diluted with ethyl acetate and washed successively with NaHCO3 solution and NaCl solution. The organic phase was dried over Na2SO4 and the solvent was distilled off in vacuo to obtain the crude product, which led to the desired product by purification by column chromatography over silica gel. Yield: 76%

reactant | Thionyl chloride | 3.22 mmol, 2.5 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | N-((7-(hydroxymethyl)-1H-benzo[d]imidazol-2-yl)methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide | 1.29 mmol, 1.0 eq. | OCC1=CC=CC2=C1NC(=N2)CN(S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C | C19H23N3O4S
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((7-(Chloromethyl)-1H-benzo[d]imidazol-2-yl)methyl)-4-methoxy-N,2,6-trimethylbenzenesulfonamide | Yield: 76% | ClCC1=CC=CC2=C1NC(=N2)CN(S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C | C19H22ClN3O3S
